US05232940
A mixture of bis[5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylpyrazole-4-yl)-disulphide (4.0 g), sodium dithionite (2.02 g) and sodium hydroxide (0.46 g) was stirred and heated under reflux in a mixture of ethanol and water (60 ml, 1:1) for 4 hours. The cooled yellow solution was treated with ethyl iodide (2.17 g) and the mixture stirred and heated under reflux for 2 hours. After evaporation in vacuo, the yellow gum was dissolved in ether (100 ml), washed with water, dried over anhydrous magnesium sulphate, and re-evaporated in vacuo. The resultant gum was purified by chromatography on silica (Merck, 230-400 mesh, 0.7 kg cm-2) eluting with dichloromethane, to furnish 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-ethylthio-3-methylpyrazole in the form of a white solid, m.p. 117° C., after recrystallization from hexane.

reactant | bis[5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylpyrazole-4-yl)-disulphide | 4.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C)SSC=1C(=NN(C1N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C | C22H14Cl4F6N6S2
reactant | sodium dithionite | 2.02 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | 0.46 g | [OH-].[Na+]
reactant | ethyl iodide | 2.17 g | C(C)I | C2H5I
solvent | ethanol | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-ethylthio-3-methylpyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C)SCC | C13H12Cl2F3N3S
